US04092430
To a solution of 1.84 g of sodium in 80 ml of methanol is added, at 50°, a solution of 1.82 g of hydroxylamine hydrochloride in 30 ml of methanol. To the suspension is added, with stirring, a solution of 5.8 g of [o-(2,6-dichloroanilino)-phenyl]-acetamide (M.P. 188° - 189°) in 80 ml of methanol, and the whole subsequently refluxed for 18 hours. After cooling, the red suspension is concentrated at 40° under 11 Torr to dryness. The residue is shaken with 600 ml of water and 100 ml of ether. The aqueous phase is separated and acidified with 2 N hydrochloric acid. The suspension is extracted with 200 ml of ether, the ether solution separated, washed with water, dried over magnesium sulphate, and concentrated at 40° under 11 Torr. The residue is crystallised from ether, whereby [o-(2,6-dichloroanilino)-phenyl]-acetohydroxamic acid is obtained, M.P. 164° - 165°.

reactant | sodium | 1.84 g | [Na] | Na
reactant | hydroxylamine hydrochloride | 1.82 g | Cl.NO
reactant | [o-(2,6-dichloroanilino)-phenyl]-acetamide | 5.8 g | ClC1=C(NC2=C(C=CC=C2)CC(=O)N)C(=CC=C1)Cl | C14H12Cl2N2O
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | [o-(2,6-dichloroanilino)-phenyl]-acetohydroxamic acid | ClC1=C(NC2=C(C=CC=C2)CC(=O)NO)C(=CC=C1)Cl | C14H12Cl2N2O2
